US08669234B2
To a solution of 2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (1.00 g, 2.5 mmol) and [2-Methyl-1-(2-{5-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (1.97 g, 3.6 mmol, 1.5 equiv.) in DME (12.5 mL) was added K3PO4 (aqueous, 2 M, 3.9 mL, 7.8 mmol, 3 equiv.), Pd2 dba3 (0.12 g, 0.13 mmol, 0.05 equiv.), and Xantphos (0.15 g, 0.26 mmol, 0.1 equiv.). The slurry was degassed with argon for 5 minutes and heated to 80° C. for 18 hours. The resulting reaction mixture was diluted with EtOAc/MeOH (10:1) and filtered through CELITE. The solution was washed with water and brine. The aqueous layer was back-extracted with EtOAc and the combined organic layers were dried over Na2SO4 and concentrated. The crude oil was purified by column chromatography (SiO2, 50→100% EtOAc in Hexanes) to provide 2-{5-[4-(6-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-naphthalen-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester (0.93 g, 49%) as a yellow powder. LCMS-ESI+: calc'd for C42H49N7O5: 731.4 (M+). Found: 732.9 (M+H+).

reactant | 2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.5 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br | C18H22BrN3O2
reactant | [2-Methyl-1-(2-{5-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 3.6 mmol, 1.97 g, 1.5 equiv. | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)B1OC(C(O1)(C)C)(C)C)=O | C30H39BN4O5
reactant | K3PO4 | 7.8 mmol, 2 M, 3.9 mL, 3 equiv. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Xantphos | 0.26 mmol, 0.15 g, 0.1 equiv. | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | DME | 12.5 mL | COCCOC | C4H10O2
solvent | EtOAc MeOH | CCOC(=O)C.CO
catalyst | Pd2 dba3 | 0.13 mmol, 0.12 g, 0.05 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-{5-[4-(6-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-naphthalen-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.93 g, 49% | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC2=CC=C(C=C2C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O | C42H49N7O5
